US06174884B1
6-(3,4-methylenedioxy-benzyl)-1-(3-nonyl)-3-ethyl-1,5-dihydro-pyrazolo[3,4-d]pyrimidin-4-one
10 mg (0.037 mmol) of 5-amino-3-ethyl-1-(3-nonyl)-1H-pyrazole-4-carboxamide and 30 mg (0.129 mmol) of methyl 3,4-methylenedioxyphenylacetate are refluxed for 6 hours in 0.3 ml of a 0.5M ethanolic potassium tert-butoxide solution. After dichloromethane and saturated aqueous sodium hydrogen carbonate solution have been added, the phases are separated. Purification by chromatography gives 2 mg (11%) of a solid, Rf=0.76 (dichloromethane/methanol=15:1).

reactant | 5-amino-3-ethyl-1-(3-nonyl)-1H-pyrazole-4-carboxamide | 0.037 mmol, 10 mg | NC1=C(C(=NN1C(CC)CCCCCC)CC)C(=O)N | C15H28N4O
reactant | methyl 3,4-methylenedioxyphenylacetate | 0.129 mmol, 30 mg | C1OC=2C=C(C=CC2O1)CC(=O)OC | C10H10O4
reactant | potassium tert-butoxide | 0.5M | CC(C)([O-])C.[K+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-(3,4-methylenedioxy-benzyl)-1-(3-nonyl)-3-ethyl-1,5-dihydro-pyrazolo[3,4-d]pyrimidin-4-one | 2 mg, 11% | C1OC=2C=C(CC=3NC(C4=C(N3)N(N=C4CC)C(CC)CCCCCC)=O)C=CC2O1 | C24H32N4O3
